US05189179
6-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]methylamino]-N-[4-(trifluoromethyl)phenyl]-hexanamide monohydrochloride
6-[(2,3-Dihydro-1,4-benzodioxin-2-yl)methylamino]-N-[4-(trifluoromethyl)phenyl]hexanamide monohydrochloride (201 mg), 37% aqueous formaldehyde (0.18 mL) and sodium cyanoborohydride (38 mg) were stirred in methanol (4.8 mL) for 96 hours at 20°-25° C. under nitrogen atmosphere. Saturated sodium bicarbonate (20 mL) was added to the reaction and extracted with dichloromethane (2×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo. The resulting oil was chromatographed eluting with ethyl acetate and 10:90 ethanol:ethyl acetate to give a white solid (Rf of 0.52 in 10:90 ethanol:ethyl acetate) which was dissolved in ethanol and treated with 1.0M aqueous HCl (1 ml). The solution was concentrated in vacuo to give an oil which was dissolved in 70:30 ethyl acetate:hexane and concentrated. A hygroscopic white solid (151 mg) remained.

reactant | 6-[(2,3-Dihydro-1,4-benzodioxin-2-yl)methylamino]-N-[4-(trifluoromethyl)phenyl]hexanamide monohydrochloride | 201 mg | Cl.O1C(COC2=C1C=CC=C2)CNCCCCCC(=O)NC2=CC=C(C=C2)C(F)(F)F
reactant | formaldehyde | 0.18 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 38 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
reactant | HCl | 1.0M, 1 ml | Cl | ClH
solvent | methanol | 4.8 mL | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]methylamino]-N-[4-(trifluoromethyl)phenyl]-hexanamide monohydrochloride | Cl.O1C(COC2=C1C=CC=C2)CN(CCCCCC(=O)NC2=CC=C(C=C2)C(F)(F)F)C | InChI=1S/C23H27F3N2O3.ClH/c1-28(15-19-16-30-20-7-4-5-8-21(20)31-19)14-6-2-3-9-22(29)27-18-12-10-17(11-13-18)23(24,25)26;/h4-5,7-8,10-13,19H,2-3,6,9,14-16H2,1H3,(H,27,29);1H
